US04960945
A 200 ml flask equipped with a stirrer was charged with 3.3 g of 1,1-dichloro-2,2-bis(4-chlorophenyl)ethylene and then with 50 ml of an aqueous nitric acid solution having a specific gravity of 1.52. The weight ratio of the reaction material to the aqueous solution of nitric acid was 0.043. While vigorously stirring the resulting mixture at room temperature of about 20° C. in a nitrogen atmosphere, they were reacted for 1 hour. The reaction mixture was thereafter added with water, followed by extraction with dichloromethane. After sufficient washing of the dichloromethane layer with water, the extract was analyzed by gas chromatography. As a result, it was found that 1,1-dichloro-2,2-bis(4-chlorophenyl)ethylene was converted in its entirety to 4,4'-dichloro-3,3'-dinitrobenzophenone, but no 4,4'-dichlorobenzophenone was formed at all.

reactant | 1,1-dichloro-2,2-bis(4-chlorophenyl)ethylene | 3.3 g | ClC(=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)Cl | C14H8Cl4
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 4,4'-dichlorobenzophenone | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
